US07138425B2
c) 2-(3-Nitro-6-propylaminophenyl)-4-methylbenzoxazole
Prepared by the method of Example 54a), from 2-(3-nitro-6-fluorophenyl)-4-methylbenzoxazole (218 mg, 0.8 mmol) and propylamine (328 μL, 4.0 mmol) the subtitle compound was obtained. The product was used directly in the next step without purification.

reactant | 2-(3-nitro-6-fluorophenyl)-4-methylbenzoxazole | 0.8 mmol, 218 mg | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C(=CC=C2)C | C14H9FN2O3
reactant | propylamine | 4.0 mmol, 328 μL | C(CC)N | C3H9N
product | 2-(3-Nitro-6-propylaminophenyl)-4-methylbenzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C(=CC=C2)C | C17H17N3O3
